US06310217B1
C. 1-[4-(2-Carboxyethyl)benzyl]-4-dodecanoylpyrrole-2-carboxylic acid
50 mg (0.1 mmol) of methyl (E)-4-dodecanoyl-1-{4-[2-(ethoxycarbonyl)ethenyl]benzyl}pyrrole-2-carboxylate are dissolved in 5 ml of THF. After addition of a spatula tip of Pd/C, hydrogenation is carried out with vigorous stirring at room temperature under a hydrogen atmosphere produced using a hydrogen-filled balloon fitted onto the reaction flask for 4 h. Addition of kieselguhr is followed by filtration, the solvent is distilled off, the residue is mixed with 12 ml of ethanol and 4 ml of 10% strength aqueous KOH, and the resulting mixture is boiled under reflux for 1 h. Cooling is followed by dilution with water, acidification with dilute HCl and extraction with ether. The organic phase is washed with dilute HCl, dried over Na2SO4 and concentrated. The product is precipitated from petroleum ether.

reactant | methyl (E)-4-dodecanoyl-1-{4-[2-(ethoxycarbonyl)ethenyl]benzyl}pyrrole-2-carboxylate | 0.1 mmol, 50 mg | C(CCCCCCCCCCC)(=O)C=1C=C(N(C1)CC1=CC=C(C=C1)\C=C\C(=O)OCC)C(=O)OC | C30H41NO5
reactant | hydrogen | [H][H] | H2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 1-[4-(2-Carboxyethyl)benzyl]-4-dodecanoylpyrrole-2-carboxylic acid | C(=O)(O)CCC1=CC=C(CN2C(=CC(=C2)C(CCCCCCCCCCC)=O)C(=O)O)C=C1 | C27H37NO5
